* r:\esim_simulations\mixed_signal_hackathon\rohinth_staircase_wave\rohinth_staircase_wave.cir

.include lm_741.sub
v1  net-_u2-pad1_ gnd pulse(0 5 1m 1m 1m 0.5 1)
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ rohinth_staircase_logic
* u2  net-_u2-pad1_ net-_u1-pad1_ adc_bridge_1
* u3  net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_r1-pad1_ net-_r2-pad1_ net-_r3-pad1_ net-_r4-pad1_ dac_bridge_4
x1 ? net-_r1-pad2_ gnd vss ? out_int vdd ? lm_741
r1  net-_r1-pad1_ net-_r1-pad2_ 10k
r2  net-_r2-pad1_ net-_r1-pad2_ 10k
r3  net-_r3-pad1_ net-_r1-pad2_ 10k
r4  net-_r4-pad1_ net-_r1-pad2_ 10k
r5  net-_r1-pad2_ out_int 1k
v2 vdd gnd  dc 15
v3 gnd vss  dc 15
* u4  out_int plot_v1
x2 ? net-_r6-pad2_ gnd vss ? out vdd ? lm_741
r6  out_int net-_r6-pad2_ 1k
r7  net-_r6-pad2_ out 1k
* u5  out plot_v1
a1 [net-_u1-pad1_ ] [net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ ] u1
a2 [net-_u2-pad1_ ] [net-_u1-pad1_ ] u2
a3 [net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ ] [net-_r1-pad1_ net-_r2-pad1_ net-_r3-pad1_ net-_r4-pad1_ ] u3
* Schematic Name:                             rohinth_staircase_logic, NgSpice Name: rohinth_staircase_logic
.model u1 rohinth_staircase_logic(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u2 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_4, NgSpice Name: dac_bridge
.model u3 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 1e-00 20e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
set color0=white;
set color1=black;
set color2=red;
set xbrushwidth=3;
plot v(out_int)
plot v(out)
.endc
.end
